US09023846B2
A solution of 5-tert-butyl-4-chloro-2-methyl-2H-pyrazole-3-carboxylic acid (6-bromo-3-nitro-pyridin-2-yl)-amide (200 mg, 0.480 mmol, prepared as described in the previous step) in DME (20 mL) and water (5 mL) was treated with 2-chlorophenylboronic acid (78.8 mg, 0.504 mmol) and cesium carbonate (469 mg, 1.44 mmol). The resulting mixture was degassed via sonication, placed under Ar, treated with PdCl2(dppf).DCM (19.6 mg, 0.0240 mmol), and heated to 90° C. for 3 h. The cooled mixture was then diluted with water (40 mL) and extracted twice with EtOAc (50 mL). The combined extracts were dried over MgSO4 and concentrated in vacuo. The residue was purified on a 24-g SEPRA Si 50 SPE column (Isco system: Flow rate=20 mL/min; Eluent=EtOAc/hexanes, 1:99 v/v for 10 min, then 1:99 to 3:17 v/v over 40 min) to yield 5-tert-butyl-4-chloro-2-methyl-2H-pyrazole-3-carboxylic acid [6-(2-chloro-phenyl)-3-nitro-pyridin-2-yl]-amide as a yellow solid. Mass Spectrum (LCMS, APCI pos.): Calculated for C20H19Cl2N5O3: 448.1 (M+H); Measured: 448.0.

reactant | 5-tert-butyl-4-chloro-2-methyl-2H-pyrazole-3-carboxylic acid (6-bromo-3-nitro-pyridin-2-yl)-amide | BrC1=CC=C(C(=N1)NC(=O)C=1N(N=C(C1Cl)C(C)(C)C)C)[N+](=O)[O-] | C14H15BrClN5O3
reactant | 2-chlorophenylboronic acid | 0.504 mmol, 78.8 mg | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | cesium carbonate | 1.44 mmol, 469 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DCM | 0.0240 mmol, 19.6 mg | C(Cl)Cl | CH2Cl2
solvent | DME | 20 mL | COCCOC | C4H10O2
solvent | water | 40 mL | O | H2O
solvent | water | 5 mL | O | H2O
product | 5-tert-butyl-4-chloro-2-methyl-2H-pyrazole-3-carboxylic acid [6-(2-chloro-phenyl)-3-nitro-pyridin-2-yl]-amide | ClC1=C(C=CC=C1)C1=CC=C(C(=N1)NC(=O)C=1N(N=C(C1Cl)C(C)(C)C)C)[N+](=O)[O-] | C20H19Cl2N5O3
